US06833456B2
5-[2-(2-Hydroxymethyl-4-methoxy-pyrrolidine-1-carbonyl)-thieno[3,2-b]pyridin-7-yloxy]-2-methyl-indole-1-carboxylic acid methylamide.
Example 3(o) was prepared by dissolving the starting material 5-{2-[2-(tert -Butyl-dimethyl-silanyloxymethyl)-4-methoxy-pyrrolidine-1-carbonyl]-thieno[3,2-b]pyridin-7-yloxy}-2-methyl-indole-1-carboxylic acid methylamide (0.55 g, 1.00 mmol), as prepared in step i below, in 1 mL of acetic acid in 0.5 mL of THF and 0.5 mL of TFA and stirring at 50° C. for 3 h. The reaction mixture was quenched with 5 mL of sat. NaHCO3 and 50 mL of EtOAc the partitioned with 50/50 NaHCO3 (2×50 mL) organic layer dried over NaSO4 and concentrated. The residue purified with a 2 mm choromatotron rotor eluting with EtOAc/CH2Cl2/MeOH (2:1:0.2) then combining purified fractions. The product was then crashing out of EtOAc and diethyl ether producing 0.34 g (68.5%) of 5-[2-(2-Hydroxymethyl-4-methoxy-pyrrolidine-1-carbonyl)-thieno[3,2-b]pyridin-7-yloxy]-2-methyl-indole-1-carboxylic acid methylamide as white solid. HPLC: Rt 5.06 min. (94% area). 1H NMR (CDCl3, 400 MHz) δ: 8.50 (1H, d, J=5.3 Hz), 7.81 (1H, s), 7.71 (1H, d, J=9.0), 7.30 (1H, s), 7.03 (1H, d, J=6.9 Hz), 6.60 (1H, d, J=5.3 Hz), 6.33 (1H, s), 5.69 (1H, bs), 4.57 (1H, q, J=6.8 Hz), 4.33 (1H, s), 4.08 (1H, d, J=11.6 Hz), 4.00 (1H, s), 3.86 (2H, t, J=11.6 Hz), 3.85-3.75 (1H, m), 3.28 (3H, d, J=4.3 Hz), 2.61 (3H, s), 2.34-2.29 (1H, m). HRMS (ESI) C25H27N4O5S2 (M+H+) m/z: Calc. 495.1702, Found: 495.1704. Anal. (C25H26N4O5S2.0.2 EtOAc) Calc'd: C, 60.50; H, 5.43; N, 10.94; Found: C, 60.73; H, 5.61; N, 10.10.86.

reactant | 5-{2-[2-(tert -Butyl-dimethyl-silanyloxymethyl)-4-methoxy-pyrrolidine-1-carbonyl]-thieno[3,2-b]pyridin-7-yloxy}-2-methyl-indole-1-carboxylic acid methylamide | 1.00 mmol, 0.55 g | CNC(=O)N1C(=CC2=CC(=CC=C12)OC1=C2C(=NC=C1)C=C(S2)C(=O)N2C(CC(C2)OC)C(O[SiH2]C(C)(C)C)(C)C)C | C31H40N4O5SSi
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 5-[2-(2-Hydroxymethyl-4-methoxy-pyrrolidine-1-carbonyl)-thieno[3,2-b]pyridin-7-yloxy]-2-methyl-indole-1-carboxylic acid methylamide | CNC(=O)N1C(=CC2=CC(=CC=C12)OC1=C2C(=NC=C1)C=C(S2)C(=O)N2C(CC(C2)OC)CO)C | C25H26N4O5S
